US07781438B2
Preparation of 2-(6-Chloro-3-dimethylaminomethyl-quinolin-5-yl)-acetamide
A solution of (6-chloro-3-dimethylaminomethyl-quinolin-5-yl)-acetic acid methyl ester (462 mg, 1.58 mmol) in a mixture of methanol (4 mL) and liquid ammonia (20 mL) was stirred for 4 days in an autoclave at room temperature. After careful evaporation of the ammonia, the remaining solvent was evaporated in vacuo to afford the title compound as a pale brown solid (413 mg, 1.48 mmol, 94%). 1H NMR (400 MHz, DMSO-d6, 298 K): δ=8.85 (d, J=2.0 Hz, 1H), 8.31 (bs, 1H), 7.93 (d, J=9.1 Hz, 1H), 7.75 (d, J=9.1 Hz, 1H), 7.62 (bs, 1H), 7.08 (bs, 1H), 4.10 (s, 2H), 3.67 (bs, 2H), 2.23 (bs, 6H). MS (ES+): 278 (M(C14H1635ClN3O)+H)+.

reactant | (6-chloro-3-dimethylaminomethyl-quinolin-5-yl)-acetic acid methyl ester | 1.58 mmol, 462 mg | COC(CC1=C2C=C(C=NC2=CC=C1Cl)CN(C)C)=O | C15H17ClN2O2
reactant | ammonia | 20 mL | N | H3N
solvent | methanol | 4 mL | CO | CH4O
product | 2-(6-Chloro-3-dimethylaminomethyl-quinolin-5-yl)-acetamide | 1.48 mmol, 413 mg, 94% | ClC=1C(=C2C=C(C=NC2=CC1)CN(C)C)CC(=O)N | C14H16ClN3O
